US05420128
Thus obtained 1-chloromethyl-3-methoxy-4-phenylthiobenzene was dissolved in 200 ml of N,N-dimethylformamide, and 7.34 g of finely ground sodium cyanide was added and stirred for 14 hours at 30° C. To the reaction mixture, 300 ml of saturated brine and 300 ml of ice water were added, and the mixture was extracted with ethyl acetate (300 ml×3). The extract was washed with saturated brine (200 ml×3), and dried with anhydrous sodium sulfate, and 1-cyanomethyl-3-methoxy-4-phenylthiobenzene was obtained.

reactant | 1-chloromethyl-3-methoxy-4-phenylthiobenzene | ClCC1=CC(=C(C=C1)SC1=CC=CC=C1)OC | C14H13ClOS
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | brine | 300 ml | [Cl-].[Na+].O
product | 1-cyanomethyl-3-methoxy-4-phenylthiobenzene | C(#N)CC1=CC(=C(C=C1)SC1=CC=CC=C1)OC | C15H13NOS
